US06440995B1
4-Chloro-2-(4-trifluoromethyl-phenyl)-quinoline
The title compound, m. p. 53-55° C., MS: m/e=307 (M+), was prepared from 4-chloro-quinoline and 4-bromo-benzotrifluoride.

reactant | 4-chloro-quinoline | ClC1=CC=NC2=CC=CC=C12 | C9H6ClN
reactant | 4-bromo-benzotrifluoride | BrC1=CC=C(C=C1)C(F)(F)F | C7H4BrF3
product | 4-Chloro-2-(4-trifluoromethyl-phenyl)-quinoline | ClC1=CC(=NC2=CC=CC=C12)C1=CC=C(C=C1)C(F)(F)F | C16H9ClF3N
